US07550478B2
N-ethyl-N′-(5-oxo-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-8-yl)urea
To a 0° C. solution of 8-amino-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (6.4 mg, 0.021 mmol) in pyridine (0.3 mL) was ethyl isocyanate (0.1 mL, 0.38 M in CH2Cl2) The mixture was then stirred at room temperature for 4 hours followed by heating at 50° C. After 3 hours, more ethyl isocianate (3 μL, 0.038 mmol) was added and the mixture was heated at 70° C. After stirring for 14 hours, a new addition of ethyl isocyanate (9 μL, 0.114 mmol) was followed by heating at 80° C. More ethyl isocyanate (20 μL, 0.253 mmol) was added 2 hours later and heating was continued for 14 hours. The mixture was then concentrated to dryness. The crude residue was purified by flash chromatography (100-85% CH2Cl2/MeOH gradient) and reverse phase HPLC (30-100% acetonitrile/water gradient, 0.1% trifluoroacetic acid modifier) to afford the title compound. 1H NMR (600 MHz, DMSO-D6) δ 9.24 (d, 1H), 8.69 (d, 1H), 8.14 (d, 1H), 7.85 (d, 2H), 7.80 (d, 1H), 7.67 (dd, 1H), 7.53 (t, 2H), 7.45 (t, 2H), 7.31 (s, 2H), 2.95 (m, 2H), 0.93 (t, 3H). LRMS (APCI) calculated for C23H20N3O2 [M+H]+, 370.1; found 370.1

reactant | 8-amino-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 0.021 mmol, 6.4 mg | NC1=CC2=C(C(C=3C(=NC=C(C3)C3=CC=CC=C3)C=C2)=O)C=C1 | C20H14N2O
reactant | ethyl isocyanate | 0.38 M, 0.1 mL | C(C)N=C=O | C3H5NO
reactant | ethyl isocyanate | 0.114 mmol, 9 μL | C(C)N=C=O | C3H5NO
reactant | ethyl isocyanate | 0.253 mmol, 20 μL | C(C)N=C=O | C3H5NO
solvent | pyridine | 0.3 mL | N1=CC=CC=C1 | C5H5N
product | N-ethyl-N′-(5-oxo-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-8-yl)urea | C(C)NC(=O)NC1=CC2=C(C(C=3C(=NC=C(C3)C3=CC=CC=C3)C=C2)=O)C=C1 | C23H19N3O2
